US05219871
Preparation of 2-(N-benzyl-N-methylamino)-4-chloro-2-methylbutane hydrochloride
A solution of 3-(N-benzyl-N-methylamino)-3-methyl-butan-1-ol (6.9 g-see Preparation 10) in chloroform (20 ml) was added dropwise over 30 minutes to a solution of thionyl chloride (4.9 ml) in chloroform (20 ml) at 0°. When the addition was complete, the mixture was stirred at room temperature for 18 hours. Ethanol (5 ml) was added and the mixture concentrated in vacuo to give an oil which was crystallised from ethyl acetate to give the title compound as a colourless powder, yield 2.62 g, m.p. 164°-166°.

reactant | 3-(N-benzyl-N-methylamino)-3-methyl-butan-1-ol | 6.9 g | C(C1=CC=CC=C1)N(C)C(CCO)(C)C | C13H21NO
reactant | thionyl chloride | 4.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Ethanol | 5 ml | C(C)O | C2H6O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-benzyl-N-methylamino)-4-chloro-2-methylbutane hydrochloride | Cl.C(C1=CC=CC=C1)N(C)C(C)(CCCl)C | InChI=1S/C13H20ClN.ClH/c1-13(2,9-10-14)15(3)11-12-7-5-4-6-8-12;/h4-8H,9-11H2,1-3H3;1H
